US04339458
(a) 1-(4-chlorophenyl)cyclobutane nitrile
4-Chlorobenzyl cyanide (10 g) in dry DMSO (20 ml) was added over 5 min to a stirred suspension of sodium hydride (4.4 g) in DMSO at 25° C. under argon. The mixture was stirred for 30 minutes then a solution of 1,3-dibromopropane (27 g) in dry DMSO (50 ml) was added over 30 minutes while maintaining the temperature of the reaction mixture at 25°-30° C. After stirring an additional 40 minutes at this temperature the reaction mixture was added to ice water (500 ml) and extracted with dichloromethane (3×75 ml). The extracts were evaporated and the residue extracted with diethyl ether (4×50 ml). The ether extracts were washed with water, dried over anhydrous sodium sulphate and evaporated to yield an oil (10.8 g) which on distillation gave the nitrile [bp 90°/10-6Torr.] yield 5.4 g (43%).

reactant | 4-Chlorobenzyl cyanide | 10 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 27 g | BrCCCBr | C3H6Br2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1-(4-chlorophenyl)cyclobutane nitrile | 10.8 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
